US07592477B2
Step a) Formation of N-[2-(2-fluorophenyl)ethyl]-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine
To a solution of 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde (32.8 mg, 0.1 mmol) in anhydrous THF (0.6 mL) was added the 2-(2-fluorophenyl)ethylamine (11.8 mg, 0.1 mmol) and Ti(iPrO)4 (0.035 mL, 0.12 mmol). The mixture was stirred for 3 h at 60° C. then sodium triacetoxyborohydride (53 mg, 0.25 mmol) was added and the reaction mixture was stirred overnight at rt. THF (0.75 mL) was added followed by the PS-DEAM resin (Argonaut, 148 mg, 1.68 mmol/g), and the reaction mixture was stirred at rt overnight. The reaction mixture was filtered and the filtrates were eluted through a SCX column (Isolute, 1 g) with DCM (6 mL), then NH3 (2M in MeOH, 4 mL). The desired fractions (TLC monitoring) were concentrated under vacuum to give the title product.

reactant | 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde | 0.1 mmol, 32.8 mg | C(CCCCCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C20H28N2O2
reactant | 2-(2-fluorophenyl)ethylamine | 0.1 mmol, 11.8 mg | FC1=C(C=CC=C1)CCN | C8H10FN
reactant | sodium triacetoxyborohydride | 0.25 mmol, 53 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
product | N-[2-(2-fluorophenyl)ethyl]-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | FC1=C(C=CC=C1)CCNCC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC | C28H38FN3O
